US07226923B2
4-(5-Methyl-2H-pyrazole-3-ylamino)-phenyl-2H-phthalazin-1-one (A-1)
Degassed toluene (6 ml) and ethanol (3 ml) were added in one portion to a mixture of 4-bromo-2-phenyl-2H-phthalazin-1-one (0.750 g, 2.5 mmol), sodium t-butoxide (0.337 g, 3.5 mmol), 3-amino-5-methyl pyrazole (0.291 g, 3 mmol), tris-(dibenzylideneacetone)-dipalladium (0.115 g, 0.125 mmol) and 2-(di-t-butylphosphino)-biphenyl (0.075 g, 0.25 mmol) under nitrogen. The reaction mixture was heated to 100° C. for 20 hours with stirring and then cooled to room temperature. Diethyl ether (10 ml) was added and the precipitated solid was filtered to give the crude product as a grey solid (0.6 g, 76% yield). A 0.06 g portion of the crude product was triturated with acetonitrile (2 ml) and water (2 ml) to give the target compound (0.045 g, 58% yield based on recovered materials). 1H-NMR: (400 MHz, D6-DMSO) 11.96 (1H, s), 9.33 (1H, s), 8.53 (1H, d), 8.38 (1H, d), 7.92–7.99 (2H, m), 7.88 (2H, d), 7.77 (2H, t) 7.34 (1H, t) 6.24 (1H, s) 2.18 (3H, s) MS (ESI+)=(M+H)+ 318.29.

reactant | 4-bromo-2-phenyl-2H-phthalazin-1-one | 2.5 mmol, 0.750 g | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H9BrN2O
reactant | sodium t-butoxide | 3.5 mmol, 0.337 g | CC(C)([O-])C.[Na+]
reactant | 3-amino-5-methyl pyrazole | 3 mmol, 0.291 g | NC1=NNC(=C1)C | C4H7N3
reactant | 2-(di-t-butylphosphino)-biphenyl | 0.25 mmol, 0.075 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
catalyst | tris-(dibenzylideneacetone)-dipalladium | 0.125 mmol, 0.115 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4-(5-Methyl-2H-pyrazole-3-ylamino)-phenyl-2H-phthalazin-1-one | 0.6 g, 76% yield | CC=1C=C(NN1)NC1=CC=C(C=C1)N1C(C2=CC=CC=C2C=N1)=O | C18H15N5O
